US04086347
A mixture of 15.4 g (0.1 mole) of 6-chloropurine, 75 ml of N,N-dimethyl formamide, 13.8 g (0.1 mole) of potassium carbonate and 26.8 g (0.1 mole) of 3-(4-phenoxymethylpiperidino)-propyl chloride is heated to 40° C for 6 hours, while stirring. The reaction mixture is then mixed with water extracted with ethyl acetate and the extract is dried and evaporated. The residue obtained is recrystallized from ethyl acetate/ligroin. There are obtained 16.2 g (42% of theory) of 6-chloro-9-[3-(4-phenoxymethylpiperidino)-propyl]-purine; m.p. 95° - 96° C.

reactant | 6-chloropurine | 0.1 mole, 15.4 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | N,N-dimethyl formamide | 75 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-phenoxymethylpiperidino)-propyl chloride | 0.1 mole, 26.8 g | O(C1=CC=CC=C1)CC1CCN(CC1)CCCCl | C15H22ClNO
solvent | water | O | H2O
product | 6-chloro-9-[3-(4-phenoxymethylpiperidino)-propyl]-purine | 16.2 g, 42% | ClC1=C2N=CN(C2=NC=N1)CCCN1CCC(CC1)COC1=CC=CC=C1 | C20H24ClN5O
